US07816380B2
A mixture of benzyl 4-fluorocyclohex-3-ene-1-carboxylate (1.77 g, 7.56 mmol) and 38 mL of THF was stirred vigorously and cooled to −78° C. To the reaction mixture was added dropwise over 15 minutes a solution of 0.5 M potassium bis(trimethylsilyl)amide in toluene (2.56 g, 12.8 mmol. The reaction mixture was allowed to stir vigorously for 1 hour. In a separate flask, 3-phenyl-2-(phenyl-sulfonyl)oxaziridine (2.17 g, 8.31 mmol) was dissolved in 2 mL of THF. The oxaziridine solution was then added to the reaction mixture dropwise. The reaction mixture was allowed to stir for 2 hours more and quenched with a saturated aqueous ammonium chloride solution. The biphasic reaction was separated and the aqueous layer was extracted three times with EtOAc. The combined organic extracts were dried over sodium sulfate, filtered, concentrated and purified by chromatography on silica gel, eluting with 0-15% EtOAc in hexanes, to give benzyl 4-fluoro-1-hydroxycyclohex-3-ene-1-carboxylate as an oil.

reactant | benzyl 4-fluorocyclohex-3-ene-1-carboxylate | 7.56 mmol, 1.77 g | FC1=CCC(CC1)C(=O)OCC1=CC=CC=C1 | C14H15FO2
reactant | potassium bis(trimethylsilyl)amide | 0.5 M | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-phenyl-2-(phenyl-sulfonyl)oxaziridine | 8.31 mmol, 2.17 g | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
reactant | oxaziridine | O1NC1 | CH3NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 38 mL | C1CCOC1 | C4H8O
product | benzyl 4-fluoro-1-hydroxycyclohex-3-ene-1-carboxylate | FC1=CCC(CC1)(C(=O)OCC1=CC=CC=C1)O | C14H15FO3
